US07074777B2
(3) Synthesis of 1α,3β-dihydroxy-17-(3-hydroxy-3-methylbutoxymethyl)androsta-5,7,16-triene
1α,3β-Bis(tert-butyldimethylsilyloxy)-17-(3-hydroxy-3-methylbutoxymethyl)androsta-5,7,16-triene (40.0 mg, 0.0634 mmol) and a 1M tetra-n-butylammonium fluoride tetrahydrofuran solution (0.4 ml, 0.4 mmol) were subjected to reaction using a procedure similar to that of Example 5(2) (reflux under heating for 1 hour), worked up and the thus obtained residue was purified by preparative thin layer chromatography (dichloromethane:ethanol=10:1, developed once) to give the titled compound (20.9 mg, 82%) as a colorless oil.

reactant | 1α,3β-Bis(tert-butyldimethylsilyloxy)-17-(3-hydroxy-3-methylbutoxymethyl)androsta-5,7,16-triene | 0.0634 mmol, 40.0 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@@]12C)COCCC(C)(C)O)O[Si](C)(C)C(C)(C)C | C37H66O4Si2
reactant | tetra-n-butylammonium fluoride tetrahydrofuran | 0.4 mmol, 1M, 0.4 ml | O1CCCC1.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1α,3β-dihydroxy-17-(3-hydroxy-3-methylbutoxymethyl)androsta-5,7,16-triene | 20.9 mg, 82% | O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@@]12C)COCCC(C)(C)O)O | C25H38O4
